US07776897B2
Methyl 3-{4-cyclopropyl-5-[1-(2-thienyl)cyclobutyl]-4H-1,2,4-triazol-3-yl}benzoate (206 mg) was dissolved in dioxane (4 ml) and a 1M aqueous sodium hydroxide solution (1.1 ml) was added thereto at room temperature, followed by stirring at the same temperature for 12 hours. The solvent was removed by evaporation and pH was adjusted to 4 by adding an aqueous citric acid solution, followed by extraction with chloroform. The extract was dried over anhydrous magnesium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure to obtain an amorphous. Furthermore, ethyl acetate was added thereto and the whole was heated under stirring to obtain 155 mg of 3-{4-cyclopropyl-5-[1-(2-thienyl)cyclobutyl]-4H-1,2,4-triazol-3-yl}benzenecarboxylic acid (white crystals).

reactant | Methyl 3-{4-cyclopropyl-5-[1-(2-thienyl)cyclobutyl]-4H-1,2,4-triazol-3-yl}benzoate | 206 mg | C1(CC1)N1C(=NN=C1C1(CCC1)C=1SC=CC1)C=1C=C(C(=O)OC)C=CC1 | C21H21N3O2S
reactant | sodium hydroxide | 1M, 1.1 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 3-{4-cyclopropyl-5-[1-(2-thienyl)cyclobutyl]-4H-1,2,4-triazol-3-yl}benzenecarboxylic acid | 155 mg | C1(CC1)N1C(=NN=C1C1(CCC1)C=1SC=CC1)C=1C=C(C=CC1)C(=O)O | C20H19N3O2S
